US08648069B2
(R)-2-bromo-N-(1-(3-methoxyphenyl)ethyl)thiazole-5-carboxamide
To a stirring solution of 2-bromothiazole-5-carboxylic acid (0.3 g, 1.442 mmol), diisopropyl ethylamine (0.205 g, 1.586 mmol) and HATU (0.603 g, 1.586 mmol) in dimethylformamide (7.21 mL, 1.442 mmol) was added (R)-1-(3-methoxyphenyl)ethanamine (0.218 g, 1.442 mmol) dropwise. After stirring for 12 hours at 50° C., the reaction was poured into water (50 mL). The precipitated solid was then collected by filtration washing successively with water (2×50 mL) and hexanes (2×50 mL). The recovered product was used without further purification in the next step.

reactant | 2-bromothiazole-5-carboxylic acid | 1.442 mmol, 0.3 g | BrC=1SC(=CN1)C(=O)O | C4H2BrNO2S
reactant | diisopropyl ethylamine | 1.586 mmol, 0.205 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | HATU | 1.586 mmol, 0.603 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | dimethylformamide | 1.442 mmol, 7.21 mL | CN(C=O)C | C3H7NO
reactant | (R)-1-(3-methoxyphenyl)ethanamine | 1.442 mmol, 0.218 g | COC=1C=C(C=CC1)[C@@H](C)N | C9H13NO
solvent | water | 50 mL | O | H2O
product | (R)-2-bromo-N-(1-(3-methoxyphenyl)ethyl)thiazole-5-carboxamide | BrC=1SC(=CN1)C(=O)N[C@H](C)C1=CC(=CC=C1)OC | C13H13BrN2O2S
